Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Methotrexate / Novocain / epinephrine / lisinopril / Norvasc / 
Procardia / labetalol / chlorthalidone / Augmentin / Pneumovax 
23 / Arava / spironolactone / diltiazem / GABA supplement / 
hydralazine
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ old woman with confirmed white coat hypertension as well
as essential HTN, mild dyslipidemia, RA and history of SVT
presents with hypertensive urgency.

She has an extensive history of HTN which has been difficult to
manage due to labile blood pressures. She had 24 hr ambulatory 
BP
monitoring in ___ with mean 24h BP = 126/61, nadir 
nighttime
DBP 41 mmHg while on a very similar medication regimen as now
(Coreg in AM was recently bumped up to 50 mg). She was last seen
in Dr. ___ ___. At that time she was feeling well,
but upon initial BP check  she was 215/100 mmHg, but this 
rapidly
came down to 160/90 with reassurance. She admitted to anxiety,
but mostly directed at her blood pressures themselves rather 
than
anything else in her life. She was started on escitalopram for
anxiety which she has been taking but doesn't like. She has also
started meditating and doing Tia Chi every ___ for
relaxation. She asked Dr. ___ she could take Lasix
QOD rather than daily to which he agreed.

___ prior to admission, she woke up with a slight heaviness in
her head, but felt otherwise well. For the first time, she
skipped her Lasix in AM but took the rest of her AM med's. She
meditated in AM and her headache felt slightly worse. Worsened
still after her Tia Chi, when she was home alone. She became
nervous that her headache may be related to her blood pressure,
either high or low. She felt fatigued, but denied chest pain,
shortness of breath, blurry vision, or weakness. Headache was
bilateral frontal and throbbing in quality w/o N/V. She became
very anxious and decided that she should go to the ER to have 
her
BP checked. She was BIBA to ___. 

In the ED, initial VS were: 97.0 70 ___ RA 

Exam notable for: neuro exam wnl PERRL

ECG: NSR

Labs showed: Na: 133, Cr 1.2 (baseline 1.2)
Imaging showed:
NCHCT 
1. No acute intracranial abnormality.
2. Mild paranasal sinus disease

Consults: None
Patient received: Carvedilol 25 mg, Lisinopril 20 mg (home meds)
Transfer VS were: 97.4 65 164/82 17 96% RA 
 
Discussion initiated in ED due to known white coat HTN with
nocturnal hypotension diagnosed with recent ambulatory blood
pressure monitoring and patients blood pressure down to 160/80 
on
home meds. Despite recent Dr. ___ from ___
recommending no titration of anti-hypertensives due to average
SBP of 134 w/ nocturnal dips, the emergency attending insisted
upon admission.

On arrival to the floor, patient reports that she was quite
anxious in the ED, but headache has resolved. No symptoms. She 
is
very concerned that her blood pressure could be dangerous.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:
HTN with strong white coat phenomenon
HLD
pSVT
RA
 
Social History:
___
Family History:
No FH of sudden death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.4 PO 201 / 85 (180/80 in R arm on manual recheck) 76 18 
96
GENERAL: NAD, slightly anxious appearing. 
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 97.7 PO BP: 169/77 HR: 61 RR: 18 O2 sat: 93%
O2 delivery: Ra 
GENERAL: NAD, anxious affect
HEENT: atraumatic, normocephalic, anicteric sclera, moist mucous
membranes
NECK: supple
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 03:33PM   GLUCOSE-114* UREA N-17 CREAT-1.2* SODIUM-133* 
POTASSIUM-4.9 CHLORIDE-99 TOTAL CO2-20* ANION GAP-14
___ 03:33PM   cTropnT-<0.01
___ 03:33PM   CK-MB-1
___ 03:33PM   WBC-5.0 RBC-4.51 HGB-13.2 HCT-37.9 MCV-84 
MCH-29.3 MCHC-34.8 RDW-13.1 RDWSD-39.8
___ 03:33PM   NEUTS-71.0 LYMPHS-15.4* MONOS-8.2 EOS-4.2 
BASOS-0.8 IM ___ AbsNeut-3.54 AbsLymp-0.77* AbsMono-0.41 
AbsEos-0.21 AbsBaso-0.04
___ 03:19PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

DISCHARGE LABS:
None
 
Brief Hospital Course:
___ old woman with confirmed white coat hypertension, 
essential HTN, mild dyslipidemia, RA and history of SVT 
presented with hypertensive urgency with BP to 210/100 with mild 
headache.

ACUTE ISSUES:
# Hypertensive urgency: 
Known history of 'white coat' hypertension with a significant 
component of anxiety. Presented with symptoms of headache found 
to have blood pressure of 231/94 without evidence of end organ 
ischemia. Previous workup for pheochromocytoma was negative. She 
was restarted on her home antihypertensive regimen and blood 
pressures normalized with BP prior to discharge in 120s/70s. 

# Headache: Possible migraine like syndrome. Headaches seem
unrelated to BP as she has had readings in 200s without HA. She
has had headaches similar to this in the past and it has 
improved
with Tylenol. No vision changes. Headaches resolved with control 
of blood pressure.

CHRONIC ISSUES:
===============
# Anxiety: Continued escitalopram
# HLD: Has declined statin despite her elevated risk
# RA: On Humira.
# Recent ___ eye surgery: Continued PrednisoLONE Acetate 1%
Ophth. Susp. 1 DROP RIGHT EYE BID 

TRANSITIONAL ISSUES:
=====================
[] f/u w/ PCP/Cardiology for ongoing blood pressure management
[] recommend seeing psychology/psychiatry for anxiety symptoms 
that may be contributing to her hypertension

#CONTACT: Husband ___ ___ (Home)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Carvedilol 50 mg PO QAM 
3. Carvedilol 25 mg PO QPM 
4. Lisinopril 20 mg PO BID 
5. Humira (adalimumab) 40 mg/0.8 mL subcutaneous Unknown 
6. Escitalopram Oxalate 10 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE BID 

 
Discharge Medications:
1.  Carvedilol 50 mg PO QAM  
2.  Carvedilol 25 mg PO QPM  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous Unknown  
6.  Lisinopril 20 mg PO BID  
7.  Omeprazole 20 mg PO DAILY  
8.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypertensive urgency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted to the hospital because your blood pressure 
was very high.

WHAT HAPPENED IN THE HOSPITAL?
-You were given your blood pressure medication along with 
reassurance and your blood pressure improved.

WHAT SHOULD YOU DO AT HOME?
-Continue to take your prescribed blood pressure medications.
-Continue to use relaxation techniques for stress and anxiety.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

Thank you

 
Followup Instructions:
___